US07087626B2
4-[2-(6-Benzyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline
Zinc(II) chloride (0.34 mL, 1.0 M solution, 0.34 mmol) is added, at room temperature with stirring, to a solution of benzyl magnesium chloride (0.15 mL, 2.0 M solution, 0.31 mmol) in tetrahydrofuran (1 mL). After 15 min, Pd(PPh3)2Cl2 (5.4 mg, 0.0076 mmol) is added followed by a solution of 4-[2-(6-bromo-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline (60 mg 0.153 mmol) in tetrahydrofuran (1 mL). The reaction mixture is stirred for 18 h at room temperature and quenched with saturated aqueous ammonium chloride (1 mL). The reaction mixture is concentrated in vacuo, filtered, and the residue chromatographed on SiO2 (20-50% acetone/hexanes) to yield the title compound, 33.4 mg (54%), as a white solid.

reactant | benzyl magnesium chloride | 0.31 mmol, 2.0 M, 0.15 mL | C(C1=CC=CC=C1)[Mg]Cl
reactant | 4-[2-(6-bromo-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline | 0.153 mmol, 60 mg | BrC1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC=CC=C21 | C20H15BrN4
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | Zinc(II) chloride | 0.34 mmol, 1.0 M, 0.34 mL | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(PPh3)2Cl2 | 0.0076 mmol, 5.4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[2-(6-Benzyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline | C(C1=CC=CC=C1)C1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC=CC=C21 | C27H22N4
